US07696234B2
[4-(Pyridin-2-ylmethoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone dihydrochloric acid salt
To a solution of [4-(Pyridin-2-ylmethoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone (1.94 g, 5.3 mmol) in diethyl ether and methanol is added a solution of HCl in ether (10.7 mmol, 1M). The mixture is concentrated, and the oily residue is dissolved in a mixture of diethyl ether and methanol and again concentrated. The solid is triturated with petroleum ether, and the solid is dried to yield 2.2 g of a yellowish solid MS (ES+) 1366.3

reactant | [4-(Pyridin-2-ylmethoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | 5.3 mmol, 1.94 g | N1=C(C=CC=C1)COC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C22H27N3O2
reactant | HCl | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
solvent | ether | 10.7 mmol, 1M | CCOCC | C4H10O
product | [4-(Pyridin-2-ylmethoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone dihydrochloric acid salt | 2.2 g | Cl.Cl.N1=C(C=CC=C1)COC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | InChI=1S/C22H27N3O2.2ClH/c26-22(25-15-5-7-20(25)16-24-13-3-4-14-24)18-8-10-21(11-9-18)27-17-19-6-1-2-12-23-19;;/h1-2,6,8-12,20H,3-5,7,13-17H2;2*1H/t20-;;/m0../s1
